* g:\23_hathakon_2022\esim_workshpace2024\counter_jk_3nov\counter_jk_3nov.cir

* u5  net-_u3-pad2_ net-_u3-pad2_ clock net-_u10-pad4_ net-_u10-pad5_ net-_u16-pad1_ net-_u10-pad3_ d_jkff
* u10  net-_u10-pad1_ net-_u10-pad1_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ d_jkff
v1  net-_u1-pad1_ gnd pulse(0 5 0 0 0 20m 40m)
* u1  net-_u1-pad1_ clock adc_bridge_1
* u3  net-_u3-pad1_ net-_u3-pad2_ adc_bridge_1
* u7  net-_u16-pad1_ b0 dac_bridge_1
* u6  net-_u10-pad3_ net-_r1-pad1_ dac_bridge_1
* u11  net-_u10-pad6_ b1 dac_bridge_1
* u12  net-_u10-pad7_ net-_r3-pad1_ dac_bridge_1
r2  b0 gnd 1k
r4  b1 gnd 1k
r1  net-_r1-pad1_ gnd 1k
r3  net-_r3-pad1_ gnd 1k
* u2  clock plot_v1
* u9  b0 plot_v1
* u14  b1 plot_v1
v3 net-_u15-pad1_ gnd  dc 5
* u15  net-_u15-pad1_ net-_u10-pad1_ adc_bridge_1
* u16  net-_u16-pad1_ net-_u10-pad6_ net-_u16-pad3_ d_xor
* u17  net-_u16-pad3_ g0 dac_bridge_1
r5  g0 gnd 1k
* u18  g0 plot_v1
* u4  b1 plot_v1
v2 net-_u3-pad1_ gnd  dc 5
a1 net-_u3-pad2_ net-_u3-pad2_ clock net-_u10-pad4_ net-_u10-pad5_ net-_u16-pad1_ net-_u10-pad3_ u5
a2 net-_u10-pad1_ net-_u10-pad1_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ u10
a3 [net-_u1-pad1_ ] [clock ] u1
a4 [net-_u3-pad1_ ] [net-_u3-pad2_ ] u3
a5 [net-_u16-pad1_ ] [b0 ] u7
a6 [net-_u10-pad3_ ] [net-_r1-pad1_ ] u6
a7 [net-_u10-pad6_ ] [b1 ] u11
a8 [net-_u10-pad7_ ] [net-_r3-pad1_ ] u12
a9 [net-_u15-pad1_ ] [net-_u10-pad1_ ] u15
a10 [net-_u16-pad1_ net-_u10-pad6_ ] net-_u16-pad3_ u16
a11 [net-_u16-pad3_ ] [g0 ] u17
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u5 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u10 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u16 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u17 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 500e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clock)
plot v(b0)
plot v(b1)
plot v(g0)
plot v(b1)
.endc
.end
